US04387103
n-Propyl 3-[4-[2-Hydroxy-3-(isopropylamino)propoxy]phenyl]propionate Hydrochloride
A solution of 1.5 g (0.006 mole) of n-propyl 3-[4-(2,3-epoxypropoxy)phenyl]propionate in 10 mL of isopropylamine and 20 mL of n-propanol was heated to reflux for 4 hours. The reaction medium was then evaporated under reduced pressure to provide the crude free amine as an oil. The oil was dissolved in n-propanol and treated with ethereal HCl and provided 1.2 g (56%) of white crystals: mp 88°-92° C. The NMR spectrum of the product was consistent with the assigned structure and the elemental analysis data was consistent with the molecular formula C18H30NO4Cl.

reactant | n-propyl 3-[4-(2,3-epoxypropoxy)phenyl]propionate | 0.006 mole, 1.5 g | O1C(COC2=CC=C(C=C2)CCC(=O)OCCC)C1 | C15H20O4
reactant | HCl | Cl | ClH
reactant | isopropylamine | 10 mL | C(C)(C)N | C3H9N
solvent | n-propanol | 20 mL | C(CC)O | C3H8O
product | n-Propyl 3-[4-[2-Hydroxy-3-(isopropylamino)propoxy]phenyl]propionate Hydrochloride | 1.2 g, 56% | Cl.OC(COC1=CC=C(C=C1)CCC(=O)OCCC)CNC(C)C | InChI=1S/C18H29NO4.ClH/c1-4-11-22-18(21)10-7-15-5-8-17(9-6-15)23-13-16(20)12-19-14(2)3;/h5-6,8-9,14,16,19-20H,4,7,10-13H2,1-3H3;1H
